US06846835B2
Synthesis of t-butyl(3S)-3-(2-hydroxyethyl)pyrrolidine-1-carboxylate
To a solution of 34 mg of t-butyl(3S)-3-(2-acetyloxyethyl)pyrrolidine-1-carboxylate in 1 ml of methanol, 54 mg of potassium carbonate was added, and stirred for 2.5 hours at room temperature. The reaction liquid was diluted with chloroform, washed successively with water and saturated brine and dried over anhydrous sodium sulfate. Distilling the solvent off under reduced pressure, 29 mg of the title compound was obtained.

reactant | t-butyl(3S)-3-(2-acetyloxyethyl)pyrrolidine-1-carboxylate | 34 mg | C(C)(=O)OCC[C@H]1CN(CC1)C(=O)OC(C)(C)C | C13H23NO4
reactant | potassium carbonate | 54 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 1 ml | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | t-butyl(3S)-3-(2-hydroxyethyl)pyrrolidine-1-carboxylate | 29 mg | OCC[C@H]1CN(CC1)C(=O)OC(C)(C)C | C11H21NO3
